US09024027B2
Step 2: Preparation of 2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetic acid hydrochloride (104)
Methyl 2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetate (2.5 g, 9.42 mmol) was dissolved in dioxane (20 ml), and aqueous 12M HCl (6 ml, 72.0 mmol) was added. The mixture was stirred under reflux for 8 hours, then the volatiles were removed under vacuum and the resulting solid was suspended in CH3CN and recovered by filtration affording the title compound (2.2 g, 7.65 mmol, 81% yield). MS/ESI+ 252.1 [MH]+.

reactant | Methyl 2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetate | 9.42 mmol, 2.5 g | COC=1C=C2CCN(CC2=CC1OC)CC(=O)OC | C14H19NO4
reactant | HCl | 72.0 mmol, 12M, 6 ml | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetic acid hydrochloride | 7.65 mmol, 2.2 g, 81% yield | Cl.COC=1C=C2CCN(CC2=CC1OC)CC(=O)O | InChI=1S/C13H17NO4.ClH/c1-17-11-5-9-3-4-14(8-13(15)16)7-10(9)6-12(11)18-2;/h5-6H,3-4,7-8H2,1-2H3,(H,15,16);1H
